US07465731B2
To a solution of (2E)-3-(5-{[(3R)-1-(2,3-dimethylbenzyl)-3-pyrrolidinyl]amino}-2-pyrazinyl)-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide (46 mg) in ethanol (1 mL) was added 2N hydrogen chloride in ethanol (0.26 mL). After stirring at room temperature for 2 hours, the reaction mixture was evaporated in vacuo and triturated with ethyl acetate to give (2E)-3-(5-{[(3R)-1-(2,3-dimethylbenzyl)-3-pyrrolidinyl]amino}-2-pyrazinyl)-N-hydroxyacrylamide dihydrochloride (31 mg).

reactant | (2E)-3-(5-{[(3R)-1-(2,3-dimethylbenzyl)-3-pyrrolidinyl]amino}-2-pyrazinyl)-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide | 46 mg | CC1=C(CN2C[C@@H](CC2)NC=2N=CC(=NC2)/C=C/C(=O)NOC2OCCCC2)C=CC=C1C | C25H33N5O3
reactant | hydrogen chloride | 2N | Cl | ClH
solvent | ethanol | 1 mL | C(C)O | C2H6O
solvent | ethanol | 0.26 mL | C(C)O | C2H6O
product | (2E)-3-(5-{[(3R)-1-(2,3-dimethylbenzyl)-3-pyrrolidinyl]amino}-2-pyrazinyl)-N-hydroxyacrylamide dihydrochloride | 31 mg | Cl.Cl.CC1=C(CN2C[C@@H](CC2)NC=2N=CC(=NC2)/C=C/C(=O)NO)C=CC=C1C | InChI=1S/C20H25N5O2.2ClH/c1-14-4-3-5-16(15(14)2)12-25-9-8-18(13-25)23-19-11-21-17(10-22-19)6-7-20(26)24-27;;/h3-7,10-11,18,27H,8-9,12-13H2,1-2H3,(H,22,23)(H,24,26);2*1H/b7-6+;;/t18-;;/m1../s1
